US06737417B2
Diethyl 2-(4,4,5,5,5-pentafluoropentyl)malonate (3 g, 9.37 mmol) was dissolved in dimethyl sulfoxide (20 ml), and sodium hydride (60%, 525 mg, 13.11 mmol) was added to the resulting solution followed by stirring for 1 hour at room temperature. 5-Bromo-1-chloropentane (7.4 ml, 56.2 mmol) was added to the reaction mixture, followed by stirring for 1.5 hours at room temperature. The reaction mixture was diluted with water, extracted with ethyl acetate, washed with water and saturated aqueous sodium chloride, and then dried over anhydrous magnesium sulfate. The filtrate was concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (eluent: dichloromethane/hexane=1/4) to give diethyl 2-(5-chloropentyl)-2-(4,4,5,5,5-pentafluoropentyl)malonate (3.3 g, Yield 83%) as a colorless oil.

reactant | Diethyl 2-(4,4,5,5,5-pentafluoropentyl)malonate | 9.37 mmol, 3 g | FC(CCCC(C(=O)OCC)C(=O)OCC)(C(F)(F)F)F | C12H17F5O4
reactant | sodium hydride | 13.11 mmol, 525 mg | [H-].[Na+]
reactant | 5-Bromo-1-chloropentane | 56.2 mmol, 7.4 ml | BrCCCCCCl | C5H10BrCl
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | diethyl 2-(5-chloropentyl)-2-(4,4,5,5,5-pentafluoropentyl)malonate | 3.3 g, Yield 83% | ClCCCCCC(C(=O)OCC)(C(=O)OCC)CCCC(C(F)(F)F)(F)F | C17H26ClF5O4
